US07705023B2
(a) 5-Bromo-1-(4-isopropoxyphenyl)indole-2-carboxylic acid ethyl ester
The sub-title compound was prepared in accordance with Example 8(c) from 5-bromoindole-2-carboxylic acid ethyl ester and 4-isopropoxyphenylboronic acid.

reactant | 5-bromoindole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)Br | C11H10BrNO2
reactant | 4-isopropoxyphenylboronic acid | C(C)(C)OC1=CC=C(C=C1)B(O)O | C9H13BO3
product | 5-Bromo-1-(4-isopropoxyphenyl)indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)Br)C1=CC=C(C=C1)OC(C)C | C20H20BrNO3
